US07994205B2
tert-butyl methyl{[4-phenyl-5-(phenylsulfonyl)-1,3-thiazol-2-yl]methyl}carbamate
To a solution of tert-butyl methyl{[4-phenyl-5-(phenylthio)-1,3-thiazol-2-yl]methyl}carbamate (0.27 g) in N,N-dimethylformamide (3 mL) was added 3-chloroperbenzoic acid (0.57 g) under ice-cooling, and the mixture was stirred at room temperature for 30 min. Aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in acetic acid (2 mL), 3-chloroperbenzoic acid (0.96 g) was added thereto, and the mixture was stirred at room temperature for 30 min. Aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=2:1) to give the title compound as a pale-yellow oil (yield 0.18 g, 63%).

reactant | tert-butyl methyl{[4-phenyl-5-(phenylthio)-1,3-thiazol-2-yl]methyl}carbamate | 0.27 g | CN(C(OC(C)(C)C)=O)CC=1SC(=C(N1)C1=CC=CC=C1)SC1=CC=CC=C1 | C22H24N2O2S2
reactant | 3-chloroperbenzoic acid | 0.57 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | tert-butyl methyl{[4-phenyl-5-(phenylsulfonyl)-1,3-thiazol-2-yl]methyl}carbamate | yield 0.18 g, 63% | CN(C(OC(C)(C)C)=O)CC=1SC(=C(N1)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C22H24N2O4S2
